Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Mechanical fall
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ M presented ___ s/p mechanical fall on ice in setting of 
EtOH intoxication. Imaging revealed acute left 8th rib and right 
___ through 6th rib fractures. Anepidural was placed for pain 
management and removed ___. Patient
also with R Grade 2 AC joint separation and evaluated by 
orthopedics who will plan to manage this conservatively with f/u 
in two weeks. 

 
Past Medical History:
PMH: HTN
PSH: Left patellar fracture s/p surgical fixation ___
 
Social History:
___
Family History:
NC
 
Physical Exam:
Based on OMR Note ___

Vitals: 24 HR Data (last updated ___ @ 152)
    Temp: 98.0 (Tm 98.0), BP: 170/98 (119-181/69-113), HR: 70
(59-73), RR: 18 (___), O2 sat: 95% (87-96), O2 delivery: 1L NC
(1L NC-2L)
Fluid Balance (last updated ___ @ 2337)
  Last 8 hours  Total cumulative -400ml
    IN: Total 400ml, PO Amt 400ml
    OUT:  Total 800ml, Urine Amt 800ml
  Last 24 hours  Total cumulative -2055ml
    IN: Total 1220ml, PO Amt 1220ml
    OUT:  Total 3275ml, Urine Amt 3275ml
Physical exam:
Gen: NAD, AxOx3
Card: RRR, no m/r/g
Pulm: CTAB, no respiratory distress
Abd: Soft, non-tender, non-distended, normal bs.  
Ext: No edema, warm well-perfused

 
Pertinent Results:
___ 05:42AM BLOOD WBC-7.3 RBC-4.07* Hgb-11.8* Hct-37.9* 
MCV-93 MCH-29.0 MCHC-31.1* RDW-15.1 RDWSD-51.8* Plt ___
___ 05:14AM BLOOD WBC-12.0* RBC-4.62 Hgb-13.2* Hct-41.8 
MCV-91 MCH-28.6 MCHC-31.6* RDW-14.8 RDWSD-48.7* Plt ___
___ 05:14AM BLOOD Neuts-77.6* Lymphs-13.5* Monos-7.4 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-9.30* AbsLymp-1.61 
AbsMono-0.88* AbsEos-0.05 AbsBaso-0.05
___ 05:42AM BLOOD Plt ___
___ 05:59AM BLOOD ___ PTT-26.6 ___
___ 05:14AM BLOOD Plt ___
___ 05:42AM BLOOD Glucose-86 UreaN-15 Creat-0.8 Na-141 
K-4.8 Cl-103 HCO3-26 AnGap-12
___ 05:14AM BLOOD Glucose-100 UreaN-15 Creat-0.8 Na-140 
K-4.6 Cl-103 HCO3-21* AnGap-16
___ 05:42AM BLOOD Calcium-8.9 Phos-3.8 Mg-1.8
 
Brief Hospital Course:
Mr. ___ is a ___ s/p fall ___ stairs with bilateral (R ___, L 
___ fractures and grade 2 R AC joint separation. He was 
admitted as a trauma on ___. He was evaluated by the 
orthopedic team who recommended NWE of RUE with sling and follow 
up in 2 weeks. Pain management placed an epidural for pain 
control. Acute care surgery admitted the patient for aggressive 
pain management and pulmonary toilet. OT recommended home 
without services. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Naproxen 250 mg PO Q8H:PRN Pain - Moderate 
4. Citalopram 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth every six (6) hours Disp #*30 Tablet 
Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Allopurinol ___ mg PO DAILY  
5.  Citalopram 40 mg PO DAILY  
6.  Lisinopril 20 mg PO DAILY  
7.  Naproxen 250 mg PO Q8H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Bilateral rib fracture- R ___ and L 8th ribs
-Right shoulder grade 2 AC joint separation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. NWB RUE in a sling, 
with early passive range of motion times.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after 
a traumatic fall that lead to several injuries. These injuries 
included bilateral rib fractures and R AC joint separation.  You 
are recovering well and are now ready for discharge. You should 
not place any weight on your right arm and wear an arm sling for 
comfort and support. Please follow the instructions below to 
continue your recovery:

* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___